US08729061B2
(2S,3S)-3-Amino-4-cyclohexyl-N-cyclopropyl-2-hydroxybutanamide dihydrochloride
The title compound was prepared in analogy to (2S,3S)-3-amino-N-cyclopropyl-2-hydroxypentanamide dihydrochloride, Representative Procedure A, starting with (S)-tert-butyl 1-cyclohexyl-3-hydroxypropan-2-ylcarbamate in the second step (A2).

reactant | (2S,3S)-3-amino-N-cyclopropyl-2-hydroxypentanamide dihydrochloride | Cl.Cl.N[C@H]([C@@H](C(=O)NC1CC1)O)CC
reactant | (S)-tert-butyl 1-cyclohexyl-3-hydroxypropan-2-ylcarbamate | C1(CCCCC1)C[C@@H](CO)NC(OC(C)(C)C)=O | C14H27NO3
product | (2S,3S)-3-Amino-4-cyclohexyl-N-cyclopropyl-2-hydroxybutanamide dihydrochloride | Cl.Cl.N[C@H]([C@@H](C(=O)NC1CC1)O)CC1CCCCC1 | InChI=1S/C13H24N2O2.2ClH/c14-11(8-9-4-2-1-3-5-9)12(16)13(17)15-10-6-7-10;;/h9-12,16H,1-8,14H2,(H,15,17);2*1H/t11-,12-;;/m0../s1
